US04457931
(a) 1-(2-Piperidinoethyl)-4-(ethoxycarbonyl)piperazine
By reaction of 1-(ethoxycarbonyl-4-(2-chloroethyl)-piperazine (11.05 grams; 0.05 moles), piperidine (4.3 grams; 0.05 moles) and potassium carbonate (7.0 grams; 0.05 moles) in 150 cc of ethanol by boiling until disappearance of the reactants by TLC (methanol), a product is obtained which is identical to the product described in Example 13 as shown by boiling point, melting point, mixed melting point of the dihydrochloride; Rf and IR.

reactant | ethoxycarbonyl-4-(2-chloroethyl)-piperazine | 0.05 moles, 11.05 grams | C(C)OC(=O)N1CCN(CC1)CCCl | C9H17ClN2O2
reactant | piperidine | 0.05 moles, 4.3 grams | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 0.05 moles, 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethanol | 150 cc | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 1-(2-Piperidinoethyl)-4-(ethoxycarbonyl)piperazine | N1(CCCCC1)CCN1CCN(CC1)C(=O)OCC | C14H27N3O2
